US09210927B2
Preparation of 4-((E)-3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methyl-N-((pyrimidin-5-yl)methyl)benzamide (AC39)
To a stirred solution of (pyrimidin-5-yl)methanamine (0.15 g, 1.43 mmol) in CH2Cl2 (10 mL) was added drop wise trimethylaluminum (2 M solution in toluene; 0.71 mL, 1.43 mmol), and the reaction mixture was stirred at 25° C. for 30 min. A solution of ethyl 4-((E)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoate (0.3 g, 0.71 mmol) in CH2Cl2 was added drop wise to the reaction mixture at 25° C. The reaction mixture was stirred at reflux for 18 h, cooled to 25° C., quenched with 0.5 N HCl solution (50 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The crude compound was purified by flash chromatography (SiO2, 100-200 mesh; eluting with 40% EtOAc in n-hexane) to afford the title compound (0.18 g, 55%): mp 141-144° C.;

reactant | (pyrimidin-5-yl)methanamine | 1.43 mmol, 0.15 g | N1=CN=CC(=C1)CN | C5H7N3
reactant | trimethylaluminum | 1.43 mmol, 2 M, 0.71 mL | C[Al](C)C
reactant | ethyl 4-((E)-3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzoate | 0.71 mmol, 0.3 g | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)OCC)C=C1)C)C(F)(F)F | C20H17Cl2F3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-((E)-3-(3,5-Dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methyl-N-((pyrimidin-5-yl)methyl)benzamide | 0.18 g, 55% | ClC=1C=C(C=C(C1)Cl)C(/C=C/C1=CC(=C(C(=O)NCC=2C=NC=NC2)C=C1)C)C(F)(F)F | C23H18Cl2F3N3O
